US09212182B2
To a solution of 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)quinolin-2(1H)-one (250.0 g, 531.5 mmol, 1.0 equiv) in acetonitrile (2.5 L) were added acetic acid (200 mL) and water (130 mL). The resulting mixture was cooled to 0° C. and 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (188.5 g, 956.7 mmol, 1.8 equiv, Aldrich) was added portion-wise over 20 min keeping the internal temperature below 5° C. The resulting suspension was stirred at 0-5° C. under nitrogen for 45 min. Then a solution of pentafluorophenol (127.2 g, 690.95 mmol, 1.3 equiv, Apollo) in acetonitrile (200 mL) was added over 5 min followed by NEt3 (307.7 mL, 2.12 mol, 4.0 equiv) over 20 min keeping the internal temperature below 5° C. The mixture was continued to be stirred at 0-5° C. for 30 min. Water (4.0 L) was added and extracted with ethyl acetate (2×2.0 L). The organic layer was washed with brine (1.0 L), dried over sodium sulfate, filtered and concentrated under reduced pressure to obtain the crude which was purified by stirring with isopropyl alcohol:hexanes (1:1, 1.0 L) and filtered to obtain perfluorophenyl 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (190 g, 60%) as white solid. TLC solvent system: 30% ethyl acetate in pet ether, Product's Rf 0.4. MS (ESI, positive ion) m/z; 594.2 (M+1). 1H-NMR (400 MHz, DMSO) δ 8.60 (d, J=2.0 Hz, 1H), 8.26 (d, J=9.8 Hz, 1H), 7.95 (dd, J=2.2, 9.1 Hz, 1H), 7.70 (t, J=8.6 Hz, 2H), 6.95-6.88 (m, 2H), 3.72 (s, 3H).

reactant | 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)quinolin-2(1H)-one | 531.5 mmol, 250.0 g, 1.0 equiv | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)F)Br)OC)=O | C23H17BrFNO2S
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 956.7 mmol, 188.5 g, 1.8 equiv | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | pentafluorophenol | 690.95 mmol, 127.2 g, 1.3 equiv | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | NEt3 | 2.12 mol, 307.7 mL, 4.0 equiv | CCN(CC)CC | C6H15N
reactant | Water | 4.0 L | O | H2O
reactant | water | 130 mL | O | H2O
solvent | acetonitrile | 2.5 L | C(C)#N | C2H3N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | perfluorophenyl 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 190 g, 60% | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H10BrF6NO5S
